US05350748
Diazabicycloundecene (DBU) (1.8 mL, 12.3 mmol) is added to a room temperature solution of 3-chloro-5-methoxybenzo[b]thiophene-2-carboxamide (1.0 g, 4.1 mmol) and thioacetamide (1.0 g, 13.1 mmol) in 10 mL of DMF. The mixture is warmed to 80° C. for 5.5 hours. The reaction mixture is allowed to cool and is diluted with ethyl acetate and washed with 1N HCl and water. The organic layer is extracted four times with 1N NaOH followed by water. The basic layers are combined and acidified with 6N HCl. The precipitate is filtered and washed with water. Recrystallization from ethyl acetate:hexane gives 3-mercapto-5-methoxybenzo[b]thiophene-2-carboxamide in 71% yield; mp=205° C. dec.

reactant | Diazabicycloundecene | 12.3 mmol, 1.8 mL | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | 3-chloro-5-methoxybenzo[b]thiophene-2-carboxamide | 4.1 mmol, 1.0 g | ClC=1C2=C(SC1C(=O)N)C=CC(=C2)OC | C10H8ClNO2S
reactant | thioacetamide | 13.1 mmol, 1.0 g | C(C)(=S)N | C2H5NS
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-mercapto-5-methoxybenzo[b]thiophene-2-carboxamide | 71% yield | SC=1C2=C(SC1C(=O)N)C=CC(=C2)OC | C10H9NO2S2
